US05912258
Synthesis of 2-(4-isopropylbenzoyl)amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole hydrochloride
2-(4-Isopropylbenzoyl)amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole (1.2 g) was dissolved in methanol (50 ml) and the solution, with hydrochloric acid-methanol (10 ml) added thereto, was stirred for 10 minutes at room temperature. The reaction mixture was concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethanol, thereby yielding 1.3 g of the aimed compound.

reactant | 2-(4-Isopropylbenzoyl)amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole | 1.2 g | C(C)(C)C1=CC=C(C(=O)NC=2SC(=NN2)SCCN(C(C)C)C(C)C)C=C1 | C20H30N4OS2
reactant | hydrochloric acid methanol | 10 ml | Cl.CO
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-isopropylbenzoyl)amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole hydrochloride | 1.3 g | Cl.C(C)(C)C1=CC=C(C(=O)NC=2SC(=NN2)SCCN(C(C)C)C(C)C)C=C1 | InChI=1S/C20H30N4OS2.ClH/c1-13(2)16-7-9-17(10-8-16)18(25)21-19-22-23-20(27-19)26-12-11-24(14(3)4)15(5)6;/h7-10,13-15H,11-12H2,1-6H3,(H,21,22,25);1H
